US06716863B2
2-(1-(4-[4-({2-[(E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazol-4-yl}methoxy)phenyl]butyl)-1H-imidazol-2-yl)-1-ethanol
Using 4-[4-[2-(2-hydroxyethyl)-1H-imidazol-1-yl]butyl]phenol (391 mg), 65% oily sodium hydride (60 mg) and 4-(chloromethyl)-2-((E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazole (375 mg), the same reaction as Example 2 was carried out to yield the titled compound (583 mg).

reactant | 4-[4-[2-(2-hydroxyethyl)-1H-imidazol-1-yl]butyl]phenol | 391 mg | OCCC=1N(C=CN1)CCCCC1=CC=C(C=C1)O | C15H20N2O2
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 4-(chloromethyl)-2-((E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazole | 375 mg | ClCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)F | C12H9ClFNO
product | 2-(1-(4-[4-({2-[(E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazol-4-yl}methoxy)phenyl]butyl)-1H-imidazol-2-yl)-1-ethanol | 583 mg | FC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCO | C27H28FN3O3
